** sch_path: /mnt/c/Data/OneDrive/MyDocuments/Community/ISHIKAI/shuttle/OpenSUSI-TR10/2026/Projects/AM_Radio/noritsuna/xschem/current_mirror.sch
.subckt current_mirror VDD VSS VB VB1 VB2
*.PININFO VDD:B VSS:B VB:I VB1:O VB2:O
MMM13 VB2 VB2 VB1 VSS NMOS w=84u l=8u
MMM14 VB1 VB1 VSS VSS NMOS w=84u l=8u
MMM23 VB VB VDD VDD PMOS w=240u l=8u
MMM24 VB2 iB net1 VDD PMOS w=240u l=8u
MMM25 net1 VB VDD VDD PMOS w=240u l=8u
MMM26 iB iB VB VDD PMOS w=240u l=8u
MMM5 iB iB net2 VSS NMOS w=84u l=8u
MMM6 net2 net2 VSS VSS NMOS w=84u l=8u
MMDMYP1 iB VDD VDD VDD PMOS w=20u l=8u m=4
MMDMYN7 iB VSS VSS VSS NMOS w=7u l=8u m=4
.ends
